US05556861
A solution of 7.5 g of 1-benzhydryl-3-oxoazetidine dissolved in 50 cm3 of ethyl ether is added in the course of 20 minutes at between 0 and 5° C. to a solution of propylmagnesium iodide in ethyl ether, prepared under the usual conditions from 10.75 g of iodopropane and 1.55 g of magnesium in 75 cm3 of ethyl ether. The temperature is allowed to rise to approximately 20° C. and the mixture is stirred at the same temperature for 2 hours. After cooling to approximately 0° C., 50 cm3 of water and 50 cm3 of 10% aqueous ammonium chloride solution are added successively while the latter temperature is maintained. The aqueous phase is extracted with 3 times 50 cm3 of ethyl ether. The combined organic extracts are dried over magnesium sulphate and concentrated to dryness under reduced pressure (20 kPa) at approximately 30° C. The dry extract is chromatographed on 100 g of silica gel (0.04-0.063 mm) suspended in a cyclohexane mixture containing 20% of ethyl acetate. The desired product is eluted with 130 cm3 of the same solvent mixture. 8 g of 1-benzhydryl-3-hydroxy-3-propyl-azetidine are obtained in the form of a pale yellow oil, which is used without further purification for the subsequent steps.

reactant | 1-benzhydryl-3-oxoazetidine | 7.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)=O | C16H15NO
reactant | propylmagnesium iodide | C(CC)[Mg]I
reactant | iodopropane | 10.75 g | ICCC | C3H7I
reactant | magnesium | 1.55 g | [Mg] | Mg
reactant | ammonium chloride | 50 cm3 | [Cl-].[NH4+]
solvent | ethyl ether | 50 cm3 | C(C)OCC | C4H10O
solvent | ethyl ether | 75 cm3 | C(C)OCC | C4H10O
solvent | water | 50 cm3 | O | H2O
product | 1-benzhydryl-3-hydroxy-3-propyl-azetidine | 8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(CCC)O | C19H23NO
